US05219862
6-cyano-8beta-methoxycarbonyl-2-ergoline-carbaldehyde
7.89 g of 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester (20 mmol) is dissolved in 400 ml of anhydrous tetrahydrofuran, the solution is cooled to -40° C., mixed with 4 ml of triethylamine and then the solution of 3.0 ml of tert-butyl hypochloride (25 mmol) in 60 ml of anhydrous tetrahydrofuran is instilled. After 10 minutes of stirring, another 1 ml of tert-butylhypochlorite is added, stirred for 5 minutes and the solution is poured on ice. The mixture is made alkaline with bicarbonate solution and shaken with ethyl acetate. The organic phases are dried, the solvent is evaporated and the residue is crystallized from the diisopropylether, the yield is quantitative [α]D =+42.7° (0.5% in chloroform).

reactant | 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester | 20 mmol, 7.89 g | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CN3CCOCC3)C#N | C22H26N4O3
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hypochloride | 25 mmol, 3.0 ml | ClOC(C)(C)C | C4H9ClO
reactant | tert-butylhypochlorite | 1 ml | C(C)(C)(C)OCl | C4H9ClO
reactant | bicarbonate | C([O-])(O)=O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-cyano-8beta-methoxycarbonyl-2-ergoline-carbaldehyde | C(#N)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C=O)C(=O)OC | C18H17N3O3
